US07723330B2
Step E: Preparation of 3-(3-fluoro-4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3,4-dihydroquinazolin-2(1H)-one:
To a round bottom flask were added 3-(3-fluoro-4-hydroxyphenyl)-3,4-dihydroquinazolin-2(1H)-one (19 mg, 0.074 mmol) and DMF (0.7 mL). 1-(4-Methoxybenzyl)-4-chloro-3-methyl-1H-pyrazolo[3,4-b]pyridine (25.4 mg, 0.088 mmol), prepared according to the procedure of Example 43, Step E, was added followed by potassium carbonate (12.2 mg, 0.088 mmol) and a 1 M solution of potassium t-butoxide in THF (0.088 mL, 0.088 mmol). The mixture was stirred at 110° C. for 4 hours under nitrogen. The reaction was cooled to room temperature and the reaction mixture was partitioned between water (10 mL) and ethyl acetate (20 mL). The organic layer was separated and the aqueous layer was extracted with a second portion of ethyl acetate (10 mL). The combined organic layers were washed with brine, dried over sodium sulfate and evaporated to give 29.8 mg of brown oil. The crude oil was triturated with a dichloromethane:ether mixture and the resulting solid was filtered and dried to afford the desired product as a tan solid (17.6 mg, 47%). LRMS (APCI pos): m/e 510.2 (M+1).

reactant | 3-(3-fluoro-4-hydroxyphenyl)-3,4-dihydroquinazolin-2(1H)-one | 0.074 mmol, 19 mg | FC=1C=C(C=CC1O)N1C(NC2=CC=CC=C2C1)=O | C14H11FN2O2
reactant | 1-(4-Methoxybenzyl)-4-chloro-3-methyl-1H-pyrazolo[3,4-b]pyridine | 0.088 mmol, 25.4 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3Cl)C)C=C1 | C15H14ClN3O
reactant | potassium carbonate | 0.088 mmol, 12.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 0.088 mmol, 0.088 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
product | 3-(3-fluoro-4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3,4-dihydroquinazolin-2(1H)-one | 29.8 mg | FC=1C=C(C=CC1OC1=C2C(=NC=C1)N(N=C2C)CC2=CC=C(C=C2)OC)N2C(NC1=CC=CC=C1C2)=O | C29H24FN5O3
